US05698554
Under ice cooling, 24.86 g of anhydrous aluminum chloride was added to a dichloroethane suspension (250 ml) containing 12.83 g of [2-methyl-4-phthalimidobutyl]benzene and 9.29 g of succinic anhydride, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into ice water, and the organic layer was collected by separation. After the organic layer was washed with water and dried, the solvent was removed. The resulting crude crystal was recrystallized from ethyl acetate-hexane to obtain 16.11 g of 4-(2-methyl-4-phthalimidobutyl)-1-(3-hydroxycarbonylpropionyl)benzene.

reactant | aluminum chloride | 24.86 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | [2-methyl-4-phthalimidobutyl]benzene | 12.83 g | CC(CC1=CC=CC=C1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C19H19NO2
reactant | succinic anhydride | 9.29 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | dichloroethane | 250 ml | ClC(C)Cl | C2H4Cl2
product | 4-(2-methyl-4-phthalimidobutyl)-1-(3-hydroxycarbonylpropionyl)benzene | 16.11 g | CC(CC1=CC=C(C=C1)C(CCC(=O)O)=O)CCN1C(C=2C(C1=O)=CC=CC2)=O | C23H23NO5
